US04235776
To a solution of 6.7 g. of 4-acetamidocyclohexanone [prepared by the method of Fraser and Swingle, Can. J. Chem., 48, 2065 (1970)], in 150 ml. of anhydrous ethanol were added 25 ml. of ethyl orthoformate containing a few crystals of p-toluenesulfonic acid monohydrate. The reaction mixture was stirred at ambient temperature for about 16 hours, after which time the volatile constituents were removed by evaporation in vacuo. The residue comprising the diethylketal was dissolved in 200 ml. of toluene and the toluene was removed by distillation under a nitrogen atmosphere, until all of the diethylketal had been converted to the 1-ethoxycyclohexene derivative. The solution was cooled, washed with aqueous sodium bicarbonate and dried. Evaporation of the toluene yielded a residue comprising 4-acetamido-1-ethoxycyclohexene melting at 100°-102° C. after recrystallization from an ether-hexane solvent mixture; yield=6.2 g.

reactant | 4-acetamidocyclohexanone | C(C)(=O)NC1CCC(CC1)=O | C8H13NO2
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | C(C)O | C2H6O
product | 4-acetamido-1-ethoxycyclohexene | C(C)(=O)NC1CC=C(CC1)OCC | C10H17NO2
